US07759342B2
Synthesis of 5-[9-Cyclopentyl-8-(2,4,6-trifluorophenylamino)-9H-purin-2-ylamino]pyridine-2-ol
9-Cyclopentyl-N2-(6-methoxypyridin-3-yl)-N8-(2,4,6-trifluorophenyl)-9H-purine-2,8-diamine (0.350 g, 0.769 mmol) was dissolved in 30% HBr/acetic acid in a sealed tube and heated to 80° C. for 16 hours. Product confirmed by LC-MS. The solution was partitioned between 1.75 M potassium carbonate and ethyl acetate (3×). The organics were combined, dried over magnesium sulfate, filtered and solvent removed under reduced pressure. The resultant solid was purified via preparative HPLC (5-55% acetonitrile/water, 20 mL/min.) to afford the title compound (0.212 g, 34%). ES-MS (m/z) 442 [M+1]+. Melting point 257-260° C.

reactant | 9-Cyclopentyl-N2-(6-methoxypyridin-3-yl)-N8-(2,4,6-trifluorophenyl)-9H-purine-2,8-diamine | 0.769 mmol, 0.350 g | C1(CCCC1)N1C2=NC(=NC=C2N=C1NC1=C(C=C(C=C1F)F)F)NC=1C=NC(=CC1)OC | C22H20F3N7O
solvent | HBr acetic acid | Br.C(C)(=O)O
product | 5-[9-Cyclopentyl-8-(2,4,6-trifluorophenylamino)-9H-purin-2-ylamino]pyridine-2-ol | 0.212 g, 34% | C1(CCCC1)N1C2=NC(=NC=C2N=C1NC1=C(C=C(C=C1F)F)F)NC=1C=CC(=NC1)O | C21H18F3N7O
